US04960782
(ii) 2,2',4'-Trifluoro-2-chloroacetophenone
A solution of 2,2',4'-trifluoroacetophenone (1.60 g; 9.2 mM) in sulphuryl chloride (4 ml) was heated at 75° for 18 hours. The mixture was then cooled and iced-water (40 ml) was added. The product was extracted into ether (80 ml), which was washed with water and aqueous sodium bicarbonate solution, and then dried over magnesium sulphate. Evaporation yielded the desired product as a colourless, intensely lachrymatory liquid (2.0 g; 100%).

reactant | 2,2',4'-trifluoroacetophenone | 9.2 mM, 1.60 g | FCC(=O)C1=C(C=C(C=C1)F)F | C8H5F3O
reactant | water | 40 ml | O | H2O
reactant | sulphuryl chloride | 4 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2,2',4'-Trifluoro-2-chloroacetophenone | FC(C(=O)C1=C(C=C(C=C1)F)F)Cl | C8H4ClF3O
